US04820389
99.4 g of 3-tert-butyl-4-methoxybenzaldehyde dimethyl acetal are refluxed in 300 g of water for 3 hours. This is followed by cooling down, and the residue is filtered off and dried, leaving 77.5 g of 3-tert-butyl-4-methoxybenzaldehyde (mp. 52°-53 C.), which corresponds to a yield of 96.7%.

reactant | 3-tert-butyl-4-methoxybenzaldehyde dimethyl acetal | 99.4 g | COC(C1=CC(=C(C=C1)OC)C(C)(C)C)OC | C14H22O3
solvent | water | 300 g | O | H2O
product | 3-tert-butyl-4-methoxybenzaldehyde | 77.5 g, yield of 96.7% | C(C)(C)(C)C=1C=C(C=O)C=CC1OC | C12H16O2
